US06774136B2
6-Hydroxy-5-[(2-methoxyphenyl)-morpholin-4-yl-methyl]-naphthalene-1-carboxylic Acid
The preparation was carried out in accordance with general synthesis instructions 4 from 6-hydroxy-1-naphthoic acid and 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride, which had been prepared in accordance with example 28.

reactant | 6-hydroxy-1-naphthoic acid | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride | [Cl-].COC1=C(C=[N+]2CCOCC2)C=CC=C1
product | 6-Hydroxy-5-[(2-methoxyphenyl)-morpholin-4-yl-methyl]-naphthalene-1-carboxylic Acid | OC=1C(=C2C=CC=C(C2=CC1)C(=O)O)C(N1CCOCC1)C1=C(C=CC=C1)OC | C23H23NO5
